US08067621B2
Step 7: Trans-10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one
Trans-10a-[(4-chlorophenyl)sulfonyl]-1,4-difluoro-6a,9,10,10a-tetrahydrospiro[6H-dibenzo[b,d]pyran-8(7H), 2′-[1,3]dioxolane] (3.1 g, 6.8 mmole) was dissolved in 200 ml acetone and 10 ml water. Toluenesulfonyl chloride (1 g) was added and the mixture was refluxed overnight. Acetone was removed. 100 water and 100 ml EtOAc were added. The organic layer washed with water (50 ml), dried over Na2SO4 and concentrated. The residue was pure enough for next step. Yield: 2.8 g, 100%. 1H NMR (CDCl3 400 MHz δ 7.63 (d, J=8.1 Hz, 2H), 7.52 (d, J=8.8 Hz, 2H), 7.14 (m, 1H), 6.64 (m, 1H), 5.27 (dd, J=11.7 and 2.9 Hz, 1H), 4.13 (d, J=11.7 Hz, 1H), 3.18 (d, J=12.4 Hz, 1H), 2.79 (dt, J=12.4 and 3.7 Hz, 1H), 2.4-2.57 (m, 4H), 2.04-2.17 (m, 1H).

reactant | Trans-10a-[(4-chlorophenyl)sulfonyl]-1,4-difluoro-6a,9,10,10a-tetrahydrospiro[6H-dibenzo[b,d]pyran-8(7H), 2′-[1,3]dioxolane] | 6.8 mmole, 3.1 g | ClC1=CC=C(C=C1)S(=O)(=O)[C@]12C3=C(OC[C@@H]1CC1(OCCO1)CC2)C(=CC=C3F)F | C21H19ClF2O5S
reactant | Toluenesulfonyl chloride | 1 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
product | Trans-10a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one | ClC1=CC=C(C=C1)S(=O)(=O)[C@@]12[C@H](COC3=C(C=CC(=C13)F)F)CC(CC2)=O | C19H15ClF2O4S
